US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (260 mg, 0.54 mmol) and 6N HCl (1.0 mL) in tetrahydrofuran (5 mL) was heated at reflux for 1 h. The mixture was cooled to room temperature and extracted with ethyl acetate and then washed with a saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 3-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-propane-1,2-diol (100 mg, 41.9%) as a white solid: LC/MS m/e calcd for C24H30N2O4S [M+H]+ 443.58, observed 443.2; 1H NMR (400 MHz, CDCl3) δ ppm 1.15 (m, 2H), 1.45 (m, 2H), 1.54-1.82 (m, 5H, H), 2.06 (m, 1H), 2.23 (m, 1H), 2.74 (dd, J=8.1, J=13.8 Hz, 1H), 2.82 (dd, J=4.8, J=13.8 Hz, 1H), 2.90 (br, 2H), 2.98 (s, 3H), 3.53 (dd, J=7.3, J=11.4 Hz, 1H), 3.68 (dd, J=3.0, J=11.4 Hz, 1H), 3.93 (m, 1H), 4.22 (t, J=7.7 Hz, 1H), 6.29 (s, 1H), 7.75 (d, J=8.3 Hz, 2H), 7.71 (s, 1H), 7.76 (s, 1H), 7.77 (d, J=8.3 Hz, 2 H), 10.82 (s, 1H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 0.54 mmol, 260 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC2OC(OC2)(C)C)N1 | C27H34N2O4S
reactant | HCl | 6N, 1.0 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-propane-1,2-diol | 100 mg, 41.9% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC(CO)O)N1 | C24H30N2O4S
